US07713994B2
Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-carbamic acid tert-butyl ester
Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-amine (1.0 g, 3.7 mmol) is dissolved in CH3CN (17 mL), (Boc)2O (1.2 g, 5.5 mmol) is added, followed by addition of DMAP (50-100 mg, 0.41-0.82 mmol). The mixture is stirred until no starting amine is left. After removal of CH3CN, the residue is subjected to chromatography to provide the desired product (0.9 g, 66%). 1H NMR (300 MHz, CDCl3) ∂7.47 (2H, d, J=8.7 Hz), 7.20-7.27 (2H, m), 5.0-5.83 (7H, m), 3.60 (2H, m), 2.75 (2H, m), 1.52 (9H, s).

reactant | Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-amine | 3.7 mmol, 1.0 g | C(C=C)NC(CC=C)C1=CC=C(C=C1)Br | C13H16BrN
reactant | (Boc)2O | 5.5 mmol, 1.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 17 mL | CC#N | C2H3N
catalyst | DMAP | 0.41-0.82 mmol, 50-100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Allyl-[1-(4-bromo-phenyl)-but-3-enyl]-carbamic acid tert-butyl ester | 0.9 g, 66% | C(C)(C)(C)OC(N(C(CC=C)C1=CC=C(C=C1)Br)CC=C)=O | C18H24BrNO2
